US05750524
Dissovled in 120 ml of methanol were 6.45 g (22.1 mmol) of benzyl-4-(indan-2-yl)-2-butenoate, and 0.6 g of 10% palladium-carbon was added to the solution, followed by vigorous stirring for 2.5 hours under a hydrogen atmosphere. The catalyst was separated by filtration, and the filtrate was concentrated to obtain 3.84 g of 4-(indan-2-yl)butanoic acid as a crystal. Yield: 85%.

reactant | benzyl-4-(indan-2-yl)-2-butenoate | 22.1 mmol, 6.45 g | C(C1=CC=CC=C1)OC(C=CCC1CC2=CC=CC=C2C1)=O | C20H20O2
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium-carbon | 0.6 g | [C].[Pd]
product | 4-(indan-2-yl)butanoic acid | 3.84 g, Yield: 85% | C1C(CC2=CC=CC=C12)CCCC(=O)O | C13H16O2
